Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Compazine / Amoxicillin / CT dye / alcohol wipes
 
Attending: ___
 
Chief Complaint:
psychosis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ hx of inflammatory bowel disease s/p several surgeries
including a colostomy presented via EMS to the ___ with AMS.
Primary ED team indicates that he was brought from the ___ in
___. Airplane tickets from ___ were found with his
belongings. Psychiatry is consulted given concern for delusional
thinking.

Mr. ___ conveys the hpi in a markedly vague manner. Initially 
it
is unclear to what extent he is intentionally unwilling/guarded
about his social and medical history or just genuinely unable to
recall details about his life. He explains that he called the
ambulance because he was suffering from severe radiating pain
moving throughout his entire body. When asked where he called
from, where he lives and so on, he continually responded by
saying "I'd rather not say." He does convey that he has been
traveling through several ___, namely ___ and ___. He will not elaborate about the 
purpose
or details of the trip. He is willing to to discuss some of his
medical issues--i.e the colostomy--but will not say much about
when the surgery took place, who his doctors are ___. He
indicates that he has some doctors at ___ and ___ doctors in
___.

As he becomes more comfortable he starts to explain that 
variouss
"entities" have implanted micro chips in his brain that 
stimulate
the hippocampus. These micro chips have the ability to cause
excruciating bodily pain, as they were before he came to the ED.
He implies that the "entities" can also effect other outcomes
with these chips. He will not confirm whether his recent travel
in the ___ is related to chips in his brain. He conveys
that he has been struggling with these "entities" for some 
number
of years now and does indicate that it upsetting and burdensome.
He elaborates that the entities have an association with the ___ which he refers to as the "GIs." 

Mr. ___ does not provide any collateral contacts. He does
indicate that he has family in the area but that they will not 
be
helpful. He explains that their "level of intelligence" is an
issue, as they may not understand his experience. He also
explains that it is better for them to stay out of the whole
matter for their safety.

Psych ROS as above. Exam is somewhat limited by what the patient
is willing to share. He does not appear internally stimulated.
Does not volunteer suicidal thoughts or violent thoughts. 

 
Past Medical History:
Past medical history:Per Dr. ___ notes from ___ ___s Medical Discharge Summary from 
___.
Confirmed with patient.
-PCP: Dr. ___
- GI:Dr. ___ in ___ diseas s/p colostomy and multpl surgeries
-Joint pain
-pre-diabetes
-Renal insuficiency (baseline Cr 1.31-1.47) 
-Patient was hit by a car ___ yr ago and has require a great deal
of medical care since then

Past psychiatric history: Per Dr. ___ notes from
___ ___s Medical Discharge Summary
from ___. Patient declined to confirm. 
 "
Per his psychiatrist Dr. ___ ___:
- She first started treated Mr. ___ after he was discharged 
from
a ___ Hospital where he was admitted for a number of months 
for
delusions (similar to current). He was stable on rispderdal
consta 25 mg q2 weeks for a long time but ultimately started
gaining weight and self DCed. He hasn't been willing to take any
PO anti-psychotics. He remained without sxs of psychosis for a
long time. At that well baseline, she explains that it would not
be evident that he has a thought disorder. He has been more
symptomatic in the last 4 months and not very compliant with
appointment. He does have one scheduled on ___. She has never
known him to violent or aggressive. 
- Staff from his ___ supported living described his as more
isolative, quiet, reserved, keeps to himself when he is not 
using
any substances
- His psychiatrist has some question about whether Mr. ___ has
paranoid concerns about the sources of his meds, which is why he
may be obtaining pain medications. His pattern of use is not
entirely consistent with addiction which is why Dr. ___ whether it is informed by his psychosis.

Contact numbers: 
sister ___: ___
Pt's social worker ___ ___
"

 
Social History:
He states that
he is close with family and friends. He went to college, where
she studied political science and neuroscience and says he
enjoyed both. He declines to give a work history. The following
information was obtained from the pt's sister:

Pt did not complete college but came close, finishing ___ 
years
at ___. He tried to go back in his late ___ but was
not able to perform the coursework. Pt got married in his early
___ to a ___, and the pt ran a ___ business 
for
several years. He had trouble keeping it organized and 
eventually
had to stop the business. His wife encouraged him to finish
school, but he was not able to and stopped working. He and his
wife divorced about ___ years ago, and he has been doing worse
since then. At his worst, he spent one year in ___ after he became depressed and suicidal; this was ___
years ago (___). He now lives in supported housing with a
comprehensive outpatient team.

Personal and Social History: Per Dr. ___ notes from
___ ___s Medical Discharge Summary
from ___. Patient declined to confirm. 
"
- Patient is a resident of a ___ funded high intensity supported
apartment complex called "___" in ___. Residents have shared apartments that are supported by ___
staff, nursing staff, medication management. Mr. ___ does have
his own vehicle and can come and go as he pleases. 
- Mr. ___ is his own repayee. Income includes SSI, SSDI
- His family is in state. They have not been in touch with him
inover a month. Sister ___: ___
"

Per patient (validity is unclear)
B/R in the ___ area.  Currently lives in ___ area but
declines to be more specific.   Reports 2 residences but will 
not
revealmore detail. Reports that he completed a college degree 
and
is "well educated". Lists a number of subjects he studied in
school including political science, business, neuroscience. 

Patient reporting recent trips through a number of ___ in 
the
___ including ___, ___ and ___. Will not
elaborate on purpose of the travel.

 
Family History:
Patient unsure about family history.

 
Physical Exam:
Admission Physical Examination:
VS:  BP: 122/84  HR:87   temp: 98.6   resp:18  O2 sat:99%  
height: 5'7"  weight:168lbs
Gen: NAD, rosey hue to skin
HEENT: Sclera anicteric. Oropharynx benign. Mucous membranes
moist. 
Neck: Supple. No LAD. No masses or goiter. Trachea midline.
Cor: RRR, no murmur
Chest: CTAB. 
Abdomen: Soft, NTND, +BS. 
Back: No spinous process tenderness. band-aid over lower lumbar
spine
Ext: Warm, no edema.

Neuro:
CN:
II: Visual fields full to confrontation. Pupils equally round &
reactive to light. No relative afferent pupillary defect. 
III,IV,VI EOMI w/o nystagmus (or diplopia). No ptosis.
V: Sensation intact to light touch. 
VII: Face symmetric without weakness.
VIII: Hears finger rub equally and bilaterally.
IX,X: Voice normal. Palate elevates symmetrically.
XI: SCM and trapezii full.
XII: Tongue protrudes midline.
Motor:  Normal bulk and tone, no tremor, or bradykinesia. Full
strength in bilateral deltoids, elbow flexion and extension,
finger flexion, hip flexors, knee flexion and extension, ankle
dorsi- and plantarflexion.
Coord: Heel-to-shin, and finger-to-nose-finger movements intact.
No truncal ataxia.
Reflex:  Normal and symmetric  
___:   Equal and intact to light touch
Gait:     Posture, stride, and arm-swing normal. 

Neuropsychiatric Examination:
  *Appearance: appears older than stated age, thin body, 
unshaved
beard, toothy grin, wearing hospital gown.  Watch and driver's
lisence in hand. tip of nose red 
  Behavior: no signs of psychomotor agitation/retardation. 
Appropriate eye contact, smiles and laughs frequently at jokes 
he
makes. Friendly, conversational
  *Mood and Affect: "not bad", guarded, full range, euthymic
  *Thought process : goal directed, concrete, tangential at 
times
  *Thought Content : Denies any SI/HI/VH. +hearing people's
thoughts due to a chip in his ear. + paranoia of "brain hacking"
  *Judgment and Insight: poor/poor

Cognition:
-Orientation: Full (Name, Place and Time/Date).
-Attention: Spells WORLD backwards correctly and performs serial
7's correctly. Can follow 2 part commands
-Memory: ___ at 5 minutes.
-Fund of knowledge: can state the last 3 presidents
-Calculations: 7Q states at $1.50, on reattempt $1.25
-Abstraction: Proverb "people in glass houses shouldn't throw
stones": correct 
-Speech: Normal volume, rate, prosody, cadence, intonation. Pt 
is
redirectable/interruptible
-Language: Native ___ speaker

DISCHARG PHYSICAL EXAM:
Exam: 97.5, 105/72, 90, 16, 97% on RA
Neurological: *station and gait: wnl, cranial nerves: grossly
intact, abnormal movements: none
*Appearance: ___ y/o tan Caucasian M who appears stated age
dressed in polo shirt, pants and sneakers, fair hygeine and
grooming,  appropriate eye contact 
Behavior: Cooperative, describes current condition exitedly,
makes appropriate jokes, occasionally laughs innapropriately
*Speech: Normal volume and rate
*Mood and Affect: "fine" euthymic
*Thought process: relatively linear and organized
*Thought Content: Paranoid and psychotic content re: brain chip,
denies SI/HI/AVH
*Judgment and Insight: limited, limited

 
Pertinent Results:
ADMISSION LABS:

___ 07:45AM BLOOD WBC-8.7 RBC-4.35* Hgb-12.5* Hct-40.0 
MCV-92 MCH-28.7 MCHC-31.2 RDW-13.4 Plt ___
___ 07:45AM BLOOD ALT-24 AST-29 AlkPhos-113 TotBili-1.6*
___ 07:45AM BLOOD VitB12-284 Folate-9.6
___ 07:45AM BLOOD HIV Ab-NEGATIVE

DISCHARGE LABS:

None performed as he was medically stable at the time of 
discharge.

 
Brief Hospital Course:
1.Legal: ___
2.Medical: Crohn's dz
During his admission he had some difficulty with the colostomy 
supplies that were available.  By the day of discharge he had 
his sister send him some of his home supplies and he was much 
happier.  We continued his Humira while he was in the hospital.  
 

Patient’s GI doctor, ___ was contacted at time of 
admission in order to discuss circumstances of patient’s 
hospitalization and to obtain relevant history.  The patient has 
an appointment with his GI doctor 
two days after discharge.

3.Psychiatric

Extensive time was spent discussing the patient’s diagnosis and 
psychopharmacology issues.  His feelings of pain being caused by 
the people controlling his "chip" were improved by the time of 
discharge.

Abilify was started to treat psychosis.  B/R/AE/SE including but 
not limited to mild weight gain were discussed. This medication 
was well-tolerated. In addition, Latuda was also started and 
B/R/AE/SE were discussed. This medication was also 
well-tolerated. 

Collateral Information: our social worker spoke with the 
patient's sister (who is also his HCP) to help obtain collateral 
information.

Patient’s outpatient Psychiatrist Dr. ___ was contacted 
at time of admission in order to discuss circumstances of 
patient’s hospitalization and to obtain relevant history.

At time of discharge, pt’s outpatient Psychiatrist was contacted 
again to discuss hospital course and discharge disposition.

4.Substance Abuse: some question of if the patient was abusing 
opiates at home versus he was paranoid about the source of his 
medications so would purchase opiates (illegally) so as not to 
stay with any one source. 

-Medical and Psychiatric complications of substance abuse and 
addiction were discussed at length

5.Social/Milieu:

Pt  was encouraged to participate in unit’s 
groups/milieu/therapy opportunities.  
Usage of coping skills and mindfulness/relaxation methods were 
encouraged.
Therapy addressed family/social/work/housing issues.  

Patient and family were involved in family meeting focused on 
psychoeducation and discharge planning.

6.Risk Assessment: 
Will note that while patient represents a chronic risk of 
impulsive and potentially dangerous behaviors (e.g. self-injury 
or assault) given multiple risk factors (including history of a 
chronic major mental illness and possible substance abuse) that 
patient is currently in good behavioral control, sober, and 
future oriented, and connected with outpt treatment (sp. 
medication compliant and connected w/ outpt treaters) and 
therefore not at any significant elevated acute risk at this 
time to warrant inpatient hospitalization.

7.Disposition: 

Return to group home in ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diphenoxylate-Atropine 1 TAB PO Q3H:PRN diarrhea 
2. adalimumab 40 mg/0.8 mL subcutaneous ___ 
3. Nystatin Ointment 1 Appl TP QID:PRN skin irritation 
4. DiphenhydrAMINE 25 mg PO Q6H:PRN itch 
5. Sarna Lotion 1 Appl TP QID:PRN itch 

 
Discharge Medications:
1. adalimumab 40 mg/0.8 mL subcutaneous ___ 
2. DiphenhydrAMINE 25 mg PO Q6H:PRN itch 
3. Diphenoxylate-Atropine 1 TAB PO Q3H:PRN diarrhea 
4. Nystatin Ointment 1 Appl TP QID:PRN skin irritation 
5. Sarna Lotion 1 Appl TP QID:PRN itch 
6. Aripiprazole 20 mg PO QPM 
RX *aripiprazole [Abilify] 20 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*1
7. Latuda (lurasidone) 40 mg oral QPm 
RX *lurasidone [Latuda] 40 mg 1 tablet(s) by mouth QPM Disp #*30 
Tablet Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Schizophrenia versus Schizoaffective Disorder

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
During your admission at ___, you were diagnosed with 
schizophrenia versus schizoaffective disorder and treatment 
included medication with Abilify and Latuda.

Please follow up with all outpatient appointments as listed.

Please continue all medications as directed.  Your prescriptions 
are waiting for you at ___ in ___.  Their 
phone number is ___.  Their address is ___, 
___

Please avoid abusing alcohol and any drugs--whether prescription 
drugs or illegal drugs--as this can further worsen your medical 
and psychiatric illnesses.

Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

Please call ___ or go to your nearest emergency room if you feel 
unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you and we wish you the 
best of health.

If you need to talk to a ___ Staff Member regarding issues of 
your hospitalization, please call ___

 
Followup Instructions:
___